US07745484B2
Step 6:(4S)-4-azido-6-bromo-2-methyl-2-(trifluoromethyl)chroman
To a cooled (ice bath) solution of (4R)-6-bromo-2-methyl-2-(trifluoromethyl)chroman-4-ol (277 mg, 890 μmol) was added drop wise diphenylphosphoryl azide (249 μl, 1158 μmol). After stirring 20 min, 1,8-diazabicyclo(5.4.0)undec-7-ene (173 μl, 1158 μmol) was added drop wise. The reaction was stirred at the same temperature for 2 h, then stirred 15h at ambient temperature. Water was added to quench the reaction. The resulted mixture was extracted with EtOAc. The organics were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified on a silica gel column (5-20% EtOAc/hexane) to afford the title compound. MS m/z: 308(M−N2).

reactant | (4R)-6-bromo-2-methyl-2-(trifluoromethyl)chroman-4-ol | 890 μmol, 277 mg | BrC=1C=C2[C@@H](CC(OC2=CC1)(C(F)(F)F)C)O | C11H10BrF3O2
reactant | diphenylphosphoryl azide | 1158 μmol, 249 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo(5.4.0)undec-7-ene | 1158 μmol, 173 μl | N12CCCCCC2=NCCC1 | C9H16N2
solvent | Water | O | H2O
product | (4S)-4-azido-6-bromo-2-methyl-2-(trifluoromethyl)chroman | N(=[N+]=[N-])[C@H]1CC(OC2=CC=C(C=C12)Br)(C(F)(F)F)C | C11H9BrF3N3O
